US05719157
Three drops of conc. sulfuric acid was added to a mixture of 2-amino-4,5,3',4'-tetramethoxybenzophenone (1.55 g), dimethyl acetonedicarboxylate (0.936 g) and acetic acid (30 ml), and the resulting mixture was stirred at 100° C. for 2.5 hours. The reaction mixture was concentrated under reduced pressure, the residue was poured into water, neutralized with an aqueous saturated sodium bicarbonate solution and extracted with chloroform. The chloroform layer was washed with water dried over magnesium sulfate, and the solvent was evaporated under reduced pressure. The resulting crystals were recrystallized from acetone to give methyl 6,7-dimethoxy-4-(3,4-dimethoxyphenyl)-3-methoxycarbonylquinoline-2-acetate (1.41 g, 64%). Colorless prisms. mp. 170°-171° C.

reactant | 2-amino-4,5,3',4'-tetramethoxybenzophenone | 1.55 g | NC1=C(C(=O)C2=CC(=C(C=C2)OC)OC)C=C(C(=C1)OC)OC | C17H19NO5
reactant | dimethyl acetonedicarboxylate | 0.936 g | COC(=O)CC(=O)CC(=O)OC | C7H10O5
catalyst | sulfuric acid | Three drops | S(O)(O)(=O)=O | H2O4S
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
product | methyl 6,7-dimethoxy-4-(3,4-dimethoxyphenyl)-3-methoxycarbonylquinoline-2-acetate | 1.41 g, 64% | COC=1C=C2C(=C(C(=NC2=CC1OC)CC(=O)OC)C(=O)OC)C1=CC(=C(C=C1)OC)OC | C24H25NO8
